US07858623B2
Step 4: N-(3-flouro-4-(6-(pyrrolidine-1-carboxamido)pyrimidin-4-yloxy)phenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide.
1-(2-hydroxy-2-methylpropyl)5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (0.230 g, 0.792 mmol) was dissolved in dichloromethane (10 ml). Then DMF (0.5 ml) was added to the mixture while stirring. Then N-(6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl)pyrrolidine-1-carboxamide (0.277 g, 0.871 mmol), along with TEA (0.33 ml, 2.38 mmol) was added to the mixture and stirred 5 minutes at ambient temperature. Then HATU (0.301 g, 0.792 mmol) was added into the mixture in one portion. The resulting mixture was allowed to stir under inert atmosphere for 3 hours. The reaction was monitored by LC/MS, which confirmed completion. The mixture was diluted with dichloromethane and water and with 4:1 dichloromethane/methanol (3×20 ml). Combined organic layer was dried over sodium sulfate, filtered, and concentrated in-vacuo. The crude was purified by chromatography (Amino-Propyl silica gel column, in a gradient of 1-5% MeOH/dichloromethane to give an oil. The oil was recrystallized from dichloromethane/hexanes to give the desired product N-(3-fluoro-4-(6-(pyrrolidine-1-carboxamido)pyrimidin-4-yloxy)phenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (0.330 g, 0.56 mmol, 70% yield) as a white solid. MS (ESI pos. ion) m/z: 590 (MH+). Calc'd exact mass for C30H32FN7O5: 589.

reactant | 1-(2-hydroxy-2-methylpropyl)5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.792 mmol, 0.230 g | OC(CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1)(C)C | C15H18N2O4
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | N-(6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl)pyrrolidine-1-carboxamide | 0.871 mmol, 0.277 g | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCCC2)C=C1)F | C15H16FN5O2
reactant | HATU | 0.792 mmol, 0.301 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane methanol | 20 ml | ClCCl.CO
product | N-(3-fluoro-4-(6-(pyrrolidine-1-carboxamido)pyrimidin-4-yloxy)phenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.56 mmol, 0.330 g, 70% yield | FC=1C=C(C=CC1OC1=NC=NC(=C1)NC(=O)N1CCCC1)NC(=O)C=1C(N(N(C1C)CC(C)(C)O)C1=CC=CC=C1)=O | C30H32FN7O5
